US05151417
4-Methoxyphenylmethyl 7-[(Z)-2-(2-tritylaminothiazol-4-yl)-2-trityloxyiminoacetamido]-3-[(Z)-3-tert-butyldimethylsilyloxy-1-propenyl]-3-cephem-4-carboxylate
A solution of 4-methoxyphenylmethyl 7-[(Z)-2-(2-tritylaminothiazol-4-yl)-2-trityloxyiminoacetamido]-3-(triphenylphosphoranylidene)methyl-3-cephem-4-carboxylate (9.07 g; 7.27 mmol) and t-butyldimethylsilyloxyacetaldehyde (1.8 g; 10.34 mmol) in dichloromethane (100 ml) was stirred at room temperature for 16 hours. After the solvent was distilled off under reduced pressure, the residue was purified by chromatography on a silica gel column (n-hexane:ethyl acetate=2.5:1) whereby the title compound (4.99 g; 4.36 mmol; 60% was obtained.

reactant | 4-methoxyphenylmethyl 7-[(Z)-2-(2-tritylaminothiazol-4-yl)-2-trityloxyiminoacetamido]-3-(triphenylphosphoranylidene)methyl-3-cephem-4-carboxylate | 7.27 mmol, 9.07 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)C=P(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C(=O)OCC2=CC=C(C=C2)OC)C1=O)=N/OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C77H62N5O6PS2
reactant | t-butyldimethylsilyloxyacetaldehyde | 10.34 mmol, 1.8 g | [Si](C)(C)(C(C)(C)C)OCC=O | C8H18O2Si
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 4-Methoxyphenylmethyl 7-[(Z)-2-(2-tritylaminothiazol-4-yl)-2-trityloxyiminoacetamido]-3-[(Z)-3-tert-butyldimethylsilyloxy-1-propenyl]-3-cephem-4-carboxylate | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)\C=C/CO[Si](C)(C)C(C)(C)C)C(=O)OCC2=CC=C(C=C2)OC)C1=O)=N/OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C67H65N5O7S2Si
